US05366957
Triphenyl phosphine (2.5 g) was added to a stirred solution of carbon tetrabromide (1.48 g) in dichloromethane maintaining the temperature at 0° C. The mixture was stirred for 0.5 hours and 2-chloro-4-(sulphenyl)-benzaldehyde (1.0 g) was added. The resultant mixture was stirred for 0.5 hours and poured into hexane. The resulting solid was filtered off and washed with ether. The combined filtrates were evaporated to dryness and the residue was purified by chromatrography eluted with hexane to give 1,1-dibromo-2-[2-chloro-4-(methylsulphenyl)phenyl]ethene (0.96 g) as a white solid, NMR (CDCl3) 2.45 (s,3H), 7.15(d,1H), 7.25(s,1H), 7.55(s,1H), 7.6(d,1H).

reactant | Triphenyl phosphine | 2.5 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 1.48 g | C(Br)(Br)(Br)Br | CBr4
reactant | 2-chloro-4-(sulphenyl)-benzaldehyde | 1.0 g | ClC1=C(C=O)C=CC(C1)=S | C7H5ClOS
reactant | hexane | CCCCCC | C6H14
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1,1-dibromo-2-[2-chloro-4-(methylsulphenyl)phenyl]ethene | 0.96 g | BrC(=CC1=C(C=C(C=C1)SC)Cl)Br | C9H7Br2ClS
